US05246929
To a solution of 1-amino-2-naphthalenethiol (27.81 g) in ethanol (500 ml) is added sodium borohydride (11.35 g) at room temperature. The mixture is stirred for 20 minutes, and thereto is added dropwise acetic acid (200 ml) and is further added sodium acetate (24.6 g). To the mixture is further added dropwise methyl α-bromo-4-chlorophenylacetate (46.8 g), and the mixture is sitrred at room temperature under argon overnight. The reaction mixture is poured into ice water and the resulting precipitate is separated by filtration, washed, dried and recrystallized from tetrahydrofuran-n-hexane to give 3-(4-chlorophenyl)-1H-naphtho-[2,1-b][1,4]thiazin-2(3H)-one (44.45 g, yield 82.6%) as crystals.

reactant | 1-amino-2-naphthalenethiol | 27.81 g | NC1=C(C=CC2=CC=CC=C12)S | C10H9NS
reactant | sodium borohydride | 11.35 g | [BH4-].[Na+]
reactant | sodium acetate | 24.6 g | C(C)(=O)[O-].[Na+]
reactant | methyl α-bromo-4-chlorophenylacetate | 46.8 g | BrC(C(=O)OC)C1=CC=C(C=C1)Cl | C9H8BrClO2
solvent | ethanol | 500 ml | C(C)O | C2H6O
solvent | acetic acid | 200 ml | C(C)(=O)O | C2H4O2
product | 3-(4-chlorophenyl)-1H-naphtho-[2,1-b][1,4]thiazin-2(3H)-one | 44.45 g, yield 82.6% | ClC1=CC=C(C=C1)C1C(NC2=C(S1)C=CC1=CC=CC=C12)=O | C18H12ClNOS
